* C:\Users\joshb\Documents\Uni Work\Formula Student\Precharge\Simulation\Discharge.asc
C1 N005 0 200µ
R1 N005 0 188k
V1 N003 0 600
R2 N005 N004 1000
R3 N008 0 4k
S1 N003 N004 N002 N001 MYSW
V2 N002 N001 PULSE(0 5 0 0.000001 0.000001 2 4 1)
S2 N005 N008 N007 N006 MYSW
V3 N007 N006 PULSE(5 0 0 0.000001 0.000001 2 4 1)
.model MYSW SW(Ron=5 Roff=1Meg Vt=2)
.tran 8
.backanno
.end
