* C:\Users\joshb\Documents\Uni Work\Formula Student\Precharge\Simulation\Precharge sim.asc
C1 N002 0 200µ
R2 N002 0 188k
V1 N001 0 PULSE(0 600 0 0.000001 0.00001 10)
R1 N002 N001 1000
C2 N004 0 200µ
R4 N004 0 188k
V2 N003 0 PULSE(0 600 0 0.000001 0.00001 10)
R5 N004 N003 1000
R6 N004 0 8k2
C3 N006 0 200µ
R7 N006 0 188k
V3 N005 0 PULSE(0 600 1 0.000001 0.00001 10)
R8 NC_01 N005 1000
R9 N006 0 8k2
C4 N007 0 200µ
R3 N007 0 188k
V4 N007 0 PULSE(0 600 1 0.000001 0.00001 10)
.tran 1.5
.backanno
.end
